### PR TITLE
[gauss2] golf Derivative.lean

### PR DESCRIPTION
**Pull request by b-mehta**

### CODE REVIEW

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -1055,9 +924,7 @@ public theorem serre_D_isBoundedAtImInfty {f : ℍ → ℂ} (k : ℂ)
   have hE₂f : IsBoundedAtImInfty (fun z => k * 12⁻¹ * E₂ z * f z) := by
     have hconst : IsBoundedAtImInfty (fun _ : ℍ => k * 12⁻¹) := Filter.const_boundedAtFilter _ _
     convert hconst.mul (E₂_isBoundedAtImInfty.mul hbdd) using 1
-    ext z
-    simp only [Pi.mul_apply]
-    ring
+    ext z; simp only [Pi.mul_apply]; ring
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Derivative.lean]: This change is bad.

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -1119,69 +984,24 @@ private lemma tendsto_E₆_atImInfty : Tendsto (fun z : ℍ => E₆ z) atImInfty
...
-        serre_D_slash_invariant k F.toFun F.holo' γ hF
-      have hSerreGL :
-          serre_D k F.toFun ∣[(k + 2 : ℤ)] (Matrix.SpecialLinearGroup.mapGL ℝ γ) =
-            serre_D k F.toFun := by
-        assumption
-      rw [hSerreGL]
-      exact hbdd }
+  have : ((6 : ℂ) * 12⁻¹) = (2⁻¹ : ℂ) := by norm_num
+  simpa [this] using tendsto_serre_D_of_bounded_tendsto_one (k := (6 : ℂ)) E₆.holo'
+    (ModularFormClass.bdd_at_infty E₆) (by simpa using tendsto_E₆_atImInfty)
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Derivative.lean]: This is a nested `simpa` which is bad style, instead find the type of the second one and make it a have block

File: SpherePacking/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -1331,107 +1114,71 @@ public theorem ramanujan_E₂' : serre_D 1 E₂ = - 12⁻¹ * E₄.toFun := by
...
+        Tendsto (fun z : ℍ => (12⁻¹ : ℂ) * E₄ z) _ (𝓝 (12⁻¹ : ℂ)))
   have hG0 : G = 0 := eq_zero_of_tendsto_zero_atImInfty (k := 4) (by norm_num) G hGlim
   funext z
   have hz : F₄ z + (12⁻¹ : ℂ) * E₄ z = 0 := by
     simpa [G] using congrArg (fun f : ModularForm Γ(1) 4 => f z) hG0
-  have hz' : F₄ z = (-12⁻¹ : ℂ) * E₄ z := by
-    have : F₄ z = -((12⁻¹ : ℂ) * E₄ z) := (eq_neg_iff_add_eq_zero).2 (by simpa using hz)
-    simpa [neg_mul] using this
-  assumption
+  exact (by simpa [neg_mul] using eq_neg_iff_add_eq_zero.2 (by simpa using hz) :
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Derivative.lean]: This is also a nested `simpa` which is bad

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -1335,104 +1112,73 @@ public theorem ramanujan_E₂' : serre_D 1 E₂ = - 12⁻¹ * E₄.toFun := by
...
-              serre_D 1 E₂ := by
-          simpa [hcast] using hSerreSL
-        rw [hSerreGL]
-        exact hbdd }
+        exact bounded_at_cusps_of_bounded_at_infty hc fun _ hA => by
+          obtain ⟨γ, rfl⟩ := hA
+          have hslash : serre_D 1 E₂ ∣[(4 : ℤ)] (Matrix.SpecialLinearGroup.mapGL ℝ γ) =
+              serre_D 1 E₂ := by simpa [ModularForm.SL_slash] using hSerre_slash γ
+          rw [hslash]
+          exact hbdd }
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
        refine bounded_at_cusps_of_bounded_at_infty hc fun _ hA => ?_
        obtain ⟨γ, rfl⟩ := hA
        have hslash : serre_D 1 E₂ ∣[(4 : ℤ)] (Matrix.SpecialLinearGroup.mapGL ℝ γ) =
            serre_D 1 E₂ := by simpa [ModularForm.SL_slash] using hSerre_slash γ
        rw [hslash]
        exact hbdd }
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 5]
```diff
@@ -125,18 +117,17 @@ public theorem D_mul (F G : ℍ → ℂ) (hF : MDiff F) (hG : MDiff G)
...
 
-
 /-- A specialization of the Leibniz rule: `D (F^3)`. -/
 @[simp]
 public theorem D_cube (F : ℍ → ℂ) (hF : MDiff F) :
     D (F ^ 3) = 3 * F ^ 2 * D F := by
   have hF2 : MDiff (F ^ 2) := by simpa [pow_two] using (MDifferentiable.mul hF hF)
-  rw [show F ^ 3 = F * F ^ 2 by ring_nf, D_mul F (F ^ 2) hF hF2, D_sq F hF]
+  have : F ^ 3 = F * F ^ 2 := by ring_nf
+  rw [this, D_mul F (F ^ 2) hF hF2, D_sq F hF]
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
  rw [pow_succ', D_mul F (F ^ 2) hF hF2, D_sq F hF]
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 6]
```diff
@@ -873,30 +781,19 @@ public theorem antiSerreDerPos {F : ℍ → ℂ} {k : ℤ} (hFderiv : MDiff F)
         -- Rearranged, this is exactly `d^(-a-1) * d = d^(-a)`.
         simpa [add_assoc, add_left_comm, add_comm] using h.symm
       grind only
-    have hneg : (-2 * π : ℝ) < 0 := by nlinarith [Real.pi_pos]
     -- Combine signs.
     rw [hderiv, mul_assoc]
-    have hpos : 0 < (d t) ^ (-a) * ((serre_D k F).resToImagAxis t).re := mul_pos hdpowpos hSpos
-    exact mul_neg_of_neg_of_pos hneg hpos
+    exact mul_neg_of_neg_of_pos (by nlinarith [Real.pi_pos]) (mul_pos hdpowpos hSpos)
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Derivative.lean]: To avoid `nlinarith`:
```diff
diff --git a/SpherePacking/ModularForms/Derivative.lean b/SpherePacking/ModularForms/Derivative.lean
index 5034d2a..dccb4dc 100644
--- a/SpherePacking/ModularForms/Derivative.lean
+++ b/SpherePacking/ModularForms/Derivative.lean
@@ -769,7 +769,7 @@ public theorem antiSerreDerPos {F : ℍ → ℂ} {k : ℤ} (hFderiv : MDiff F)
         mul_assoc] using congrArg Complex.re hRes
     -- Rewrite `deriv h t` as `(-2π) * (d t)^(-a) * ((serre_D k F)(it)).re`.
     have hderiv :
-        deriv h t = (-2 * π) * (d t) ^ (-a) * ((serre_D k F).resToImagAxis t).re := by
+        deriv h t = -2 * (π * (d t) ^ (-a) * ((serre_D k F).resToImagAxis t).re) := by
       -- Start from the explicit derivative formula provided by `hh`.
       rw [(hh t ht).deriv]
       -- Rewrite the Serre-derivative term.
@@ -782,8 +782,8 @@ public theorem antiSerreDerPos {F : ℍ → ℂ} {k : ℤ} (hFderiv : MDiff F)
         simpa [add_assoc, add_left_comm, add_comm] using h.symm
       grind only
     -- Combine signs.
-    rw [hderiv, mul_assoc]
-    exact mul_neg_of_neg_of_pos (by nlinarith [Real.pi_pos]) (mul_pos hdpowpos hSpos)
+    rw [hderiv]
+    exact mul_neg_of_neg_of_pos (by norm_num) (by positivity)
   have hAnti : StrictAntiOn h (Set.Ioi (0 : ℝ)) :=
     strictAntiOn_of_deriv_neg (convex_Ioi (0 : ℝ))
       (fun x hx => (hh x hx).continuousAt.continuousWithinAt)
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 7]
```diff
@@ -1120,69 +978,26 @@ private lemma tendsto_E₆_atImInfty : Tendsto (fun z : ℍ => E₆ z) atImInfty
...
-            serre_D k F.toFun := by
-        assumption
-      rw [hSerreGL]
-      exact hbdd }
+  have : ((6 : ℂ) * 12⁻¹) = (2⁻¹ : ℂ) := by norm_num
+  have hE₆ : Tendsto (⇑E₆) atImInfty (𝓝 1) := by simpa using tendsto_E₆_atImInfty
+  simpa [this] using tendsto_serre_D_of_bounded_tendsto_one (k := (6 : ℂ)) E₆.holo'
+    (ModularFormClass.bdd_at_infty E₆) hE₆
+
+noncomputable abbrev serreD_modularForm := @serre_D_ModularForm
```
Comment (dwrensha) [inline SpherePacking/ModularForms/Derivative.lean:993]: Can we remove `serreD_modularForm` (introduced in the `gauss2` branch) in favor of `serre_D_ModularForm` (already landed on `main`)?

**Review by dwrensha — APPROVED** [review]

**Review by seewoo5 — APPROVED** [review]
